US09278951B2
Synthesis of 1,3-bis(2-methylanthraquinonyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.14 g, 1.0 mmol) and potassium hydroxide (0.06 g, 1.1 mmol) will be dissolved in the minimum volume of DMF in a high-pressure vessel. The solution will be heated at 80° C. for 30 min. The vessel will be removed from heat and 2-(bromomethyl)anthraquinone (1.20 g, 4.0 mmol) will be added. If not all solid dissolves, DMF will be added until all reactants are in solution. The vessel will be sealed and heated at 100° C. for 12 h. The volatile components will be removed under reduced pressure, and the remaining mixture washed with water to remove potassium bromide. The remaining solid will be collected and should be the product.

reactant | 4,5-Dichloroimidazole | 1.0 mmol, 0.14 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.1 mmol, 0.06 g | [OH-].[K+]
reactant | 2-(bromomethyl)anthraquinone | 4.0 mmol, 1.20 g | BrCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H9BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,3-bis(2-methylanthraquinonyl)-4,5-dichloroimidazolium bromide | [Br-].CC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)[N+]1=CN(C(=C1Cl)Cl)C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C | InChI=1S/C33H19Cl2N2O4.BrH/c1-16-11-13-22-24(30(40)20-9-5-3-7-18(20)28(22)38)26(16)36-15-37(33(35)32(36)34)27-17(2)12-14-23-25(27)31(41)21-10-6-4-8-19(21)29(23)39;/h3-15H,1-2H3;1H/q+1;/p-1
